US06756380B1
To a solution of 0.25 g (0.538 mmol) 2-methylsulfonyl-5-o-tolyl-pyrimidine-4-carboxylic acid (3,5-dichloro-benzyl)-methyl-amide in 5 ml dioxane 0.15 ml (1.34 mmol) 1-methylpiperazine was added. The reaction mixture was stirred for 16 hrs. After evaporation of the solvent, the residue was distributed between 25 ml CH2Cl2 and 25 ml H2O. The aqueous layer was extracted with 20 ml CH2Cl2, the combined organic layers dried (MgSO4), filtered and evaporated. The residue was purified by chromatography (SiO2, CH2Cl2/MeOH/NH4OH) 9:1) to give 0.116 g (44%) 2-(4-methyl-piperazin-1-yl)-5-o-tolyl-pyrimidine-4-carboxylic acid (3,5-dichloro-benzyl)-methyl-amide as a colorless oil, MS (ISP): 484.3, 486.3 (M+H+).

reactant | 2-methylsulfonyl-5-o-tolyl-pyrimidine-4-carboxylic acid (3,5-dichloro-benzyl)-methyl-amide | 0.538 mmol, 0.25 g | ClC=1C=C(CN(C(=O)C2=NC(=NC=C2C2=C(C=CC=C2)C)S(=O)(=O)C)C)C=C(C1)Cl | C21H19Cl2N3O3S
reactant | dioxane | 1.34 mmol, 5 ml | O1CCOCC1 | C4H8O2
product | 2-(4-methyl-piperazin-1-yl)-5-o-tolyl-pyrimidine-4-carboxylic acid (3,5-dichloro-benzyl)-methyl-amide | 0.116 g, 44% | ClC=1C=C(CN(C(=O)C2=NC(=NC=C2C2=C(C=CC=C2)C)N2CCN(CC2)C)C)C=C(C1)Cl | C25H27Cl2N5O
